US09238639B2
(6-((1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of ethyl(6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate (129.8 mg), THF (2.0 mL) and EtOH (2.0 mL) was added 1N NaOH (0.98 mL) at room temperature. The mixture was stirred at room temperature for 3 h under nitrogen atmosphere. The mixture was concentrated. The residue was neutralized with 1N HCl and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The solid was crystallized from EtOAc-hexane to give the title compound (106 mg).

reactant | ethyl(6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 129.8 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC2=CC(=NN2C)C(F)(F)F)=O | C18H17F3N2O3S
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 0.98 mL | [OH-].[Na+]
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | (6-((1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 106 mg | CN1N=C(C=C1COC1=CC2=C(C(=CS2)CC(=O)O)C=C1)C(F)(F)F | C16H13F3N2O3S
